Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Intracranial hemorrhage
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with PMhx of Down syndrome, hypothyroidism, who 
presents after being found down, found to have right 
intraparenchymal hemorrhage with midline shift and intubated at 
OSH, and transferred to ___.  
 Patient lives with family member. He was found down at 4pm with 
aphasia. 911 was called and he went to ___. CT head 
with parenchymal bleed with midline shift. He was intubated and 
transferred to ___.  
 Neurosurgery saw patient: "Devastating intracranial hemorrhage. 
Examined and discussed with attending. Discussion with family, 
no interventions as patient would not wish to live life with 
hemiplegia. Family wishes to extubate and focus on comfort care" 
 
 Patient therefore was extubated and admitted to medicine for 
comfort focused care.  
 In the ED, initial VS were: ___ 100% intubated  
 
 Labs showed:  
 18.4>13.7/39.9<260  
 BMP wnl  
 VBG: 7.51/27/147/22 intubated  
 Lactate 2.4  
 Imaging showed:  
 Chest x-ray: No acute process and ET tube tip in good position  

 CT head: Very large right parietal parenchymal hematoma, with 
intraventricular extension.  
 Marked right to left midline shift, with uncal herniation and 
trapped temporal horns.  
 
 Patient received:  
 Keppra 1000mg IV, mannitol 55g, Morphine gtt  
 Transfer VS were: 76 93/53 98% RA  
 On arrival to the floor, patient is unresponsive, but breathing 
comfortably  

 
Past Medical History:
Down Syndrome  
 Hypothyroidism  

 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
Admission Physical
VS: 97.5 109/52 64 20 91% 4LNC  
 GENERAL: laying comfortably  
 HEENT: Pupils 3->2.  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTA anteriorly. Breathing comfortably without use of 
accessory muscles  
 ABDOMEN: nondistended. Suprapubic catheter draining to foley 
bag  
 EXTREMITIES: warm, well perfused. No ___ edema  
 NEURO: unresponsive to noxious stimuli.  

 
Pertinent Results:
___ 09:00PM BLOOD WBC-18.4* RBC-4.09* Hgb-13.7 Hct-39.9* 
MCV-98 MCH-33.5* MCHC-34.3 RDW-13.4 RDWSD-48.6* Plt ___
___ 09:00PM BLOOD Glucose-183* UreaN-9 Creat-0.9 Na-136 
K-5.2* Cl-98 HCO3-23 AnGap-15
___ 09:00PM BLOOD ALT-18 AST-47* AlkPhos-97 TotBili-1.1
___ 09:00PM BLOOD Albumin-3.8
___ 09:10PM BLOOD ___ pO2-147* pCO2-27* pH-7.51* 
calTCO2-22 Base XS-0
___ 09:10PM BLOOD Lactate-2.4*

___ OSH CT head:  shows large R IPH with intraventricular 
extension,  
 mass effect and midline shift.  

 
Brief Hospital Course:
___ year old male with PMhx of Down syndrome, hypothyroidism, who
presents after being found down, found to have right
intraparenchymal hemorrhage with midline shift and intubated at
OSH, and transferred to ___, arrived to the floor extubated & 
CMO.

#Right intraparenchymal hemorrhage
#Death
Patient found down with CT scan revealing devastating large R 
IPH with intraventricular extension, mass effect and midline 
shift, likely due to a ruptured aneurysm. No evidence of trauma. 
Neurosurgery evaluated patient in ED and had goals of care 
discussion with decision to proceed with comfort focused care as
patient would not wish to live life as hemiplegic. Patient made 
CMO, given IV morphine, PRN glycopyrrolate, O2 NC for comfort 
and died on ___ at 11:00am surrounded by family. Legal 
guardian was present, declined autopsy. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Intraparenchymal hemorrhage
 
Discharge Condition:
Death during admission
 
Discharge Instructions:
Death during admission
 
Followup Instructions:
___